Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Erythrocin
 
Attending: ___.
 
Chief Complaint:
acute onset episode of being unable to speak or move his 
extremities
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
NEUROLOGY STROKE ADMISSION/CONSULT NOTE

no code stroke 

___ Stroke Scale Score: 1

t-PA administered: 
[] Yes - Time given: __
[x] No - Reason t-PA was not given or considered: nihss 1

Thrombectomy performed: 
[] Yes 
[x] No - Reason not performed or considered: nihss 1

NIHSS performed within 6 hours of presentation at: 2200 
time/date
___
NIHSS Total: 1
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 1
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0
 

REASON FOR CONSULTATION: L vertebral stenosis
 
HPI: 

___ male PMH of longstanding DM2, hypertension, chronic 
R
eye blindness and exodeviation after childhood injury 
transferred
from ___ after he presented with an acute onset episode
of being unable to speak or move his extremities which slowly
resolved over several hours with CTA showing stenosis of the 
left
vertebral artery. Neurology is consulted for further work-up. 

History obtained from the patient and his wife. He woke up this
morning he was at his recent baseline which is notable for
progressive issues with cognition over the past ___ years (he
repeats questions, has trouble with names, forgets 
conversations,
gets confused re the date). He went out to mow the grass on the
riding lawn mower. Around ___ he reports that he suddenly lost
control of the ability to move his arms or legs. He did not lose
tone or pass out. Due to this he ran the lawn rower into the 
fire
pit. This caught his wife's attention and she rushed over to
check on him. She reports that he was looking dazed and 
answering
"yes" or "no" questions but not following commands or speaking.
Patient says that he heard his wife talking to him but could not
tell what she was saying to him. She did try to help him stand 
up
off the lawn ___ which he was able to do with significant
support. He reports that he did not have any vision change,
tingling or numbness. He does report that he had pain in the 
back
of his neck but no other headache. He also felt dizziness off 
and
on which was not spinning but rather a lightheaded sensation. 

He was initially taken to ___ at which time he was
improving slowly. He initially could say his name but was not
talking. He reportedly couldn't lift up legs but would dorsiflex
and plantar flex his feet; he had full strength in the arms and
was otherwise reportedly neuro intact. His sbp was 200s
initially. His BG was 147 and otherwise labs unremarkable. He 
had
CTH showing atrophy and microvascular changes and CTA with
extracranial and intracranial atherosclerosis with right
vertebral stenosis. He slowly progressed back to normal while at
___ but was transported to ___ for further evaluation
and management. 

At ___ he feels essentially back to normal. Perhaps slightly
off balance. He denies fatigue or shaking after the event, loss
of bowel or bladder function. He denies recent illness. He 
denies
new medications. He has never had a stroke or seizure. 

Of note, his wife reports his cognitive decline has been
progressive for at least over a year. He has also had about ___
falls in the past year which has not been evaluated formally but
he is doing ___ therapy. She tells me he falls backward when he
falls. She says some days he seems more lucid than others. He
also has had some anxiety over the past year which is also
episodic. No hallucinations. He has had no bowel or bladder
symptoms. He does report anosmia for several years, increasingly
quiet voice and restless leg syndrome. He is not sure if he 
moves
in the night as his wife does not sleep with him due to restless
leg syndrome. He has no tremors. Retrospectively, I see a note
from neurology in ___ by Dr. ___ patient was having some
foot numbness right>left. At that time he had EMG which showed
chronic lumbosacral polyradiculopathy. There was mild
degenerative changes on MRI L spine. 
 
ROS: Positive as above, otherwise negative

 
Past Medical History:
DM2
HTN
RLS
R eye blindness from gun injury as a child
lumbosacral polyradiculopathy
 
 
Social History:
___
Family History:
no strokes or seizures 
 
Physical Exam:
ON ADMISSION:
==================
PHYSICAL EXAMINATION: 
Vitals:  96.9 69 14 172/64

General: Awake, cooperative 
HEENT: NC/AT, no scleral icterus noted, poor dentition 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, ___ ___, able to relay events which brought him to the hospital.
Unable to do DOWB. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Calculations intact. No right left
confusion, can id digits. There was no evidence of ideomotor
apraxia or neglect.

-Cranial Nerves: Right eye exodeviation, clouded. Left eye 3->2
brisk. R eye doesn't completely ___ on right gaze, L eye
doesn't completely ___ on left gaze. Full fields to digits in
left eye. Facial sensation intact to light touch. Left NLFF with
slight slow activation. Hearing symmetric. Tongue midline with
good excursions. 

-Motor: Normal bulk. Tone increases with augmentation L>R. No
tremor at rest or with action. There is immediate decrement with
fingertaps. Slight pronation on right without drift. No
asterixis. 
  [Delt][Bic][Tri][ECR][FEx][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5   5    5    5   5     5    
R    5    5    5    5    5   5    5    5   5    5    

-Sensory: No deficits to light touch, denies deficits to pin.
Temperature decreased in length dep fashion. Vibration <3 
seconds
at toes bl, <5 seconds at ankles, prop diminished for small and
medium excursions at the toes. There is no extinction to DSS.  
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:
  [Bic] [___] [Pat] [Ach]
L   1      0      1     0
R   2      0      1     0 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF

-Gait: Good initiation. Narrow-based, short shuffling stride, 
arm
swing diminished bilaterally R>L.

ON DISCHARGE:
================
___ 1622 Temp: 98.0 PO BP: 164/70 HR: 71 RR: 18 O2 sat: 98% 

No orthostatic hypotension.

General: Awake, cooperative 
HEENT: NC/AT, no scleral icterus noted, poor dentition 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to person place and time, able 
to relay events which brought him to the hospital.
Unable to do DOWB. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Calculations intact. No right left
confusion, can id digits. There was no evidence of ideomotor
apraxia or neglect.

-Cranial Nerves: Right eye exodeviation, clouded. Left eye 3->2
brisk. R eye doesn't completely ___ on right gaze, L eye
doesn't completely ___ on left gaze. Full fields to digits in
left eye. Facial sensation intact to light touch. Left NLFF with
slight slow activation. Hearing symmetric. Tongue midline with
good excursions. +hypophonia 

-Motor: Normal bulk. Tone increases with augmentation L>R. No
tremor at rest or with action. There is immediate decrement with
fingertaps. Slight pronation on right without drift. No
asterixis. 
  [Delt][Bic][Tri][ECR][FEx][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5   5    5    5   5     5    
R    5    5    5    5    5   5    5    5   5     5    

-Sensory: No deficits to light touch, denies deficits to pin.
Temperature decreased in length dep fashion. There is no 
extinction to DSS.  
vibration, or proprioception throughout. Romberg absent. 

-Reflexes:
  [Bic] [___] [Pat] [Ach]
L   1      0      1     0
R   2      0      1     0 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF

-Gait: Good initiation. Narrow-based, short shuffling stride, 
arm
swing diminished bilaterally R>L. Postural instability with 
retropulsion, examiner had to catch patient
 
Pertinent Results:
ON ADMISSION:
=================
___ 07:40PM BLOOD WBC: 7.6 RBC: 3.54* Hgb: 11.0* Hct: 33.8*
MCV: 96 MCH: 31.1 MCHC: 32.5 RDW: 12.4 RDWSD: 43.___ 
___ 07:40PM BLOOD Glucose: 123* UreaN: 14 Creat: 1.2 Na: 
140
K: 4.9 Cl: 101 HCO3: 24 AnGap: 15 
___ 07:51PM BLOOD %HbA1c: 6.4* eAG: 137* 
___ 07:43PM URINE Blood: NEG Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 7.0 
Leuks:
NEG 

STROKE RISK FACTORS:
=====================
___ TSH-2.0
___ %HbA1c-6.4* eAG-137*
___ LDLmeas-78

DIAGNOSTICS:
====================
EKG: SR, prolonged PR

CTA head and neck: Impression:
1. At the left vertebral artery origin, there is a severe focal
stenosis in the distal left vertebral artery, calcified plaque
causes moderate stenosis.
2. On the right, calcified plaque in the carotid bulb, proximal
ICA, and ECA causes mild, less than 50%, stenosis. On the left,
calcified plaque in the proximal ICA causes mild, less than 50%,
stenosis. 

MR Brain:
IMPRESSION:
1.  Study is moderately degraded by motion.
2. No acute intracranial abnormality with no definite evidence 
of acute
infarct.
3. Severe changes of chronic white matter microangiopathy.
4. Global parenchymal volume loss.

Extended Routine EEG: FINAL RESULT PENDING. Preliminary: No 
epileptiform activty

 
Brief Hospital Course:
Mr. ___ was admitted with an episode of pallor, feeling 
'stuck' or 'shut down', with particular difficulty moving both 
legs, with preserved ability to stand and walk with assistance. 
This does not localized to a focal neurologic deficit and is 
therefore unlikely to reflect TIA. The closest localization 
would be bilateral ACA territory, and to have vascular lesion in 
this region alone requires an azygous ACA, which Mr. ___ does 
not have. MRI brain confirmed no ischemia, but showed atrophy 
and severe microvascular white matter changes. CTA head/neck 
shows scattered moderate atherosclerotic changes, but they are 
unlikely to be related to the etiology of this event given that 
it cannot be localized to a vascular territory. 

Possible etiologies for the event include hypertensive 
encephalopathy (supported by SBP>200 on EMS arrival), arrhythmia 
or vasovagal event(supported by pallor). Seizure possible, but 
less likely. Extended routine EEG performed prior to discharge, 
results pending at time of discharge but preliminarily without 
epileptic activity. 

Additionally, his history of a year or more of fluctuating 
cognitive decline, falls (all backward), anosmia, restless leg 
syndrome, combined with his exam findings of masked facies, 
reduced blink rate, hypophonia, slowed and hypometric upward 
saccades, bradykinesia and rigidity that augments, as well as 
postural instability with retropulsion all raise high suspicion 
for an underlying neurodegenerative condition, likely a 
Parkinsonian syndrome. He will need follow up with Neurology. 

===================================
Transitional Issues: 
[ ] PCP: refer to ___ Neurology, prefer ___ if 
possible given his subspecialization in movement disorders. 
[ ] PCP: consider workup for cardiopulmonary causes of this 
event. 
[ ] Neurology: consider underlying Parkinsonian syndrome
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. rOPINIRole 0.5 mg PO QPM 
2. Losartan Potassium 25 mg PO DAILY 
3. TraMADol 50 mg PO QHS 
4. MetFORMIN (Glucophage) 850 mg PO BID 
5. Atorvastatin 40 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  Losartan Potassium 25 mg PO DAILY  
5.  MetFORMIN (Glucophage) 850 mg PO BID  
6.  rOPINIRole 0.5 mg PO QPM  
7.  TraMADol 50 mg PO QHS  
8.Outpatient Occupational Therapy
Evaluate and treat
Dx: R26.89
9.Outpatient Physical Therapy
Evaluate and treat
Dx: R26.89

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Encephalopathy, transient, of undetermined etiology (possibly 
hypertensive)

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___, 
You were admitted after you had an episode during which you were 
'stuck' and couldn't move, particularly your legs. You were also 
very pale during this time. We did tests including a CT scan 
that showed there was no bleeding in the brain, a CT scan with 
dye showing that the blood vessels going to your brain have 
cholesterol plaques, but are all open, and an MRI scan showing 
you did NOT have a stroke. 
It is difficult to say for sure what it was that happened 
yesterday. We will need to continue testing after you leave the 
hospital to look into this. Though we don't know for sure what 
caused this event, we have been able to rule out many dangerous 
causes with the testing we did in the hospital. 
We did an EEG test (a brain wave test) while you were here, and 
the results are pending. 
You were also seen by physical and occupational therapy, who 
recommended continuing to see both physical and occupational 
therapy as an outpatient.

We did not change any of your medications. You are already 
taking the right medications to treat the cholesterol plaques in 
your blood vessels. 

It is very important to follow up with your Primary Care 
Physician to continue to look into potential causes of this 
episode. Talk to them about whether or not it could have been 
related to your heart. 

It is also very important to follow up with Neurology. Your 
Primary Care Physician ___ refer you to a Neurologist at ___ 
(___), or to one here at ___. 
___ will work with you to figure out why you have 
had memory problems and falls over the past months-years, and 
also continue to think about whether or not the episode 
yesterday may have been from a brain problem. 
 
Please do not hesitate to call us at ___ if you have 
any questions/concerns. 

Sincerely, 
Your ___ Neurology Team
 
Followup Instructions:
___